US04725600
To a suspension of 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (10.0 g) in chloroform (100 ml) was added hydrazine hydrate (3.66 ml). The mixture was refluxed for 6 hours. The reaction mixture was evaporated in vacuo. The residue was chromatographed on silica gel using chloroform to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-hydrazino-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (3.46 g).

reactant | 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 10.0 g | ClC1=NC(=CC(N1C)=NC1=C(C=C(C=C1C)C)C)C1=CC(=C(C=C1)OC)OC | C22H24ClN3O2
reactant | hydrazine hydrate | 3.66 ml | O.NN
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-hydrazino-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 3.46 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)NN)C)=NC1=C(C=C(C=C1C)C)C | C22H27N5O2
